US06046201
N-(12-Hydroxydodecyl)-6-(4-isopropyl-1-piperazinyl)pyridine-3-carboxamide
To 2.78 g of N-(12-hydroxydodecyl)-6-chloropyridine-3-carboxamide was added 4.15 g of 1-isopropylpiperazine and the mixture was stirred at 160° C. for 30 minutes. The reaction solution was diluted with chloroform, washed with water, dried over anhydrous sodium sulfate and distilled off under reduced pressure. The residue was chromatographed over a silica gel column to afford 2.2 g of the title compound as a crystal.

reactant | N-(12-hydroxydodecyl)-6-chloropyridine-3-carboxamide | 2.78 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)Cl | C18H29ClN2O2
reactant | 1-isopropylpiperazine | 4.15 g | C(C)(C)N1CCNCC1 | C7H16N2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-(12-Hydroxydodecyl)-6-(4-isopropyl-1-piperazinyl)pyridine-3-carboxamide | 2.2 g | OCCCCCCCCCCCCNC(=O)C=1C=NC(=CC1)N1CCN(CC1)C(C)C | C25H44N4O2
